US08222248B2
A solution of 3-(3,5-dichlorophenyl)-acrylic acid tert butyl ester (4 g, 14 mmol) in ethanol (100 mL) under nitrogen atmosphere was charged with platinum oxide (800 mg). A balloon of hydrogen was attached and the mixture was stirred vigorously at ambient temperature over night. After removal of excess hydrogen, the catalyst was removed by filtering mixture through a pad of Celite and the resulting solution was evaporated to afford 3-(3,5-dichlorophenyl)-propionic acid tert-butyl ester as an oil. 1H-NMR (CDCl3, 400 MHz): δ 7.18 (s, 1H), 7.08 (s, 2H), 2.85 (s, 2H), 2.52 (s, 2H), 1.41 (s, 9H).

reactant | 3-(3,5-dichlorophenyl)-acrylic acid tert butyl ester | 14 mmol, 4 g | C(C)(C)(C)OC(C=CC1=CC(=CC(=C1)Cl)Cl)=O | C13H14Cl2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | platinum oxide | 800 mg | [Pt]=O
product | 3-(3,5-dichlorophenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC(=CC(=C1)Cl)Cl)=O | C13H16Cl2O2
